US09290485B2
a) Azidomethyl-biphenyl
A mixture of 4-(Bromomethyl)-biphenyl (200 mg, 0.6 mmol) and sodium azide (41 mg, 0.6 mmol) in 2 mL DMF was stirred at 90° C. for 1 h. The reaction mixture was concentrated in vacuo and the residue was treated with DCM and extracted with water. The organic layer was dried over MgSO4 and evaporated to give the title compound which was used in the next step without further purification. 1H-NMR (CDCl3, 400 MHz) 7.62-7.66 (m, 4H), 7.39-7.50 (m, 5H), 4.42 (s, 2H).

reactant | 4-(Bromomethyl)-biphenyl | 0.6 mmol, 200 mg | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | sodium azide | 0.6 mmol, 41 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Azidomethyl-biphenyl | N(=[N+]=[N-])CC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11N3
